US09062092B2
Compound 50b. 3-(1-Hydroxy-ethyl)-tetrahydro-pyran-3-carboxylic acid benzyl ester
A cooled (−78° C.) solution of N,N-diisopropylamine (4.7 mL, 33.316 mmol, dried over calcium hydride) in anhydrous tetrahydrofuran (60 mL) was treated with a solution of n-butyllithium in hexanes (12.5 mL, 31.234 mmol, 2.5 M). After stirring at −78° C. for 25 minutes, the mixture was treated with a solution of tetrahydro-pyran-3-carboxylic acid benzyl ester (4.587 g, 20.823 mmol) in anhydrous tetrahydrofuran (20 mL). After stirring at −78° C. for 15 minutes, the mixture was treated with acetaldehyde (3.5 mL, 62.469 mmol). After stirring at room temperature for 45 minutes, the reaction was quenched at 0° C. with hydrochloric acid (2 M, 50 mL). The aqueous layer was saturated with sodium chloride, extracted with dichloromethane (2 x). The organics were combined, filtered through a phase separator and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 100 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 3:2 to afford the title compound (2.212 g, 40%) as a yellow oil and as a 3:1 mixture of diastereoisomers. LCMS (m/z) 287.0 [M+Na], Tr=2.00 min.

reactant | N,N-diisopropylamine | 33.316 mmol, 4.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | tetrahydro-pyran-3-carboxylic acid benzyl ester | 20.823 mmol, 4.587 g | C(C1=CC=CC=C1)OC(=O)C1COCCC1 | C13H16O3
reactant | acetaldehyde | 62.469 mmol, 3.5 mL | C(C)=O | C2H4O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(1-Hydroxy-ethyl)-tetrahydro-pyran-3-carboxylic acid benzyl ester | 2.212 g, 40% | C(C1=CC=CC=C1)OC(=O)C1(COCCC1)C(C)O | C15H20O4
